US06498154B1
To a solution of 6-(3-chlorophenyl)-4-cyclopropyl-1-(4-methoxybenzyl)-1H-quinazolin-2-one (0.25 g, 0.6 mmol) in anhydrous ether was added, at ambient temperature under nitrogen, magnesium triflate (0.78 g, 2.4 mmol). The mixture was stirred for 30 minutes and treated with a solution of methylmagnesium bromide in ether (3.0 M, 1.0 mL, 3.0 mmol). The reaction mixture was kept at room temperature under nitrogen for 3 hours and quenched with a mixture of a saturated aqueous ammonium chloride solution (10 mL) and 1N aqueous HCl solution (5 mL). The mixture was stirred at room temperature for 20 minutes and ethyl acetate (40 mL) was added. The organic layer was separated and the aqueous layer was extracted with ethyl acetate (3×10 mL). The combined organic layers were washed with brine and dried (MgSO4). The solvent was removed and a half portion of the residue was dissolved in TFA (3 mL) and was stirred under nitrogen at room temperature for 72 hours. The solution was poured onto ice-water and the white precipitate obtained was collected on a filter. The solid was washed with water and then purified by a flash chromatography (methylene chloride:methanol/25:1, silica gel) to give 6-(3-chlorophenyl)-4-cyclopropyl-4-methyl-3,4-dihydro-1H-quinazolin-2-one as off-white solid(40 mg, 43%): mp 125-127° C.; 1H-NMR (DMSO-d6) δ 9.21 (s, 1H), 7.71 (s, 1H), 7.61 (d, 1H, J=7.8 Hz), 7.55 (d, 1H, J=1.6 Hz), 7.47 (dd, 1H, J=8.3, 1.8 Hz), 7.45 (t, 1H, J=7.8 Hz), 7.36 (d, 1H, J=8.1 Hz), 6.84 (d, 1H, J=8.2 Hz), 6.79 (s, 1H), 1.54 (s, 3H), 1.11 (m, 1H), 0.42 (m, 1H), 0,15-0.20 (m, 3H); MS (ESI) m/z 313([M+H]+, 100%).

reactant | 6-(3-chlorophenyl)-4-cyclopropyl-1-(4-methoxybenzyl)-1H-quinazolin-2-one | 0.6 mmol, 0.25 g | ClC=1C=C(C=CC1)C=1C=C2C(=NC(N(C2=CC1)CC1=CC=C(C=C1)OC)=O)C1CC1 | C25H21ClN2O2
reactant | magnesium triflate | 2.4 mmol, 0.78 g | [O-]S(=O)(=O)C(F)(F)F.[Mg+2].[O-]S(=O)(=O)C(F)(F)F
reactant | methylmagnesium bromide | C[Mg]Br
solvent | ether | CCOCC | C4H10O
solvent | ether | 3.0 mmol, 3.0 M, 1.0 mL | CCOCC | C4H10O
product | 6-(3-chlorophenyl)-4-cyclopropyl-4-methyl-3,4-dihydro-1H-quinazolin-2-one | 40 mg, 43% | ClC=1C=C(C=CC1)C=1C=C2C(NC(NC2=CC1)=O)(C)C1CC1 | C18H17ClN2O
